US09403804B2
To a solution of 1-(4-amino-phenyl)-cyclopropanecarbonitrile (96 mg, 0.60 mmol) in MeCN (3 mL) at 0° C. was added NBS (108 mg, 0.60 mmol) and the reaction was allowed to stir overnight. The reaction was diluted with EtOAc (25 mL) and was then washed with saturated aqueous NaHCO3 (1×25 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo to give 114 mg (80%) of 1-(4-amino-3-bromo-phenyl)-cyclopropanecarbonitrile. The crude product was used without further purification.

reactant | 1-(4-amino-phenyl)-cyclopropanecarbonitrile | 0.60 mmol, 96 mg | NC1=CC=C(C=C1)C1(CC1)C#N | C10H10N2
reactant | NBS | 0.60 mmol, 108 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | MeCN | 3 mL | CC#N | C2H3N
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 1-(4-amino-3-bromo-phenyl)-cyclopropanecarbonitrile | 114 mg, 80% | NC1=C(C=C(C=C1)C1(CC1)C#N)Br | C10H9BrN2
